US07968538B2
A solution of 1-(5-Fluoro-2-methoxy-3-chlorophenyl)ethanamine (0.38 g, 1.87 mmol), 2,4-difluoro-1-methanesulfonyl-benzene (0.3 g, 1.56 mmol) and N,N-diisopropylethylamine (1.4 mL, 7.81 mmol) in N,N-dimethylformamide (10 mL) was stirred at 110° C. for 18 h. Dichloromethane was added (20 mL) and washed with water (2×20), brine (20 mL), dried, and concentrated under reduced pressure to the crude compound which was purified by silica gel column (20% ethyl acetate in hexanes) to afford 5-fluoro-N-(1-(5-fluoro-2-methoxy-3-chlorophenyl)ethyl)-2-(methylsulfonyl)benzenamine (0.15 g, 26%): 1H NMR (400 MHz, CDCl3): δ 7.76 (dd, 1H), 7.06 (dd, 1H), 6.84 (dd, 1H), 6.79 (bs, 1H), 6.42 (dd, 1H), 6.19 (dd, 1H), 4.82 (m, 1H), 3.97 (s 3H), 3.05 (s, 3H), 1.58 (d, 3H).

reactant | 1-(5-Fluoro-2-methoxy-3-chlorophenyl)ethanamine | 1.87 mmol, 0.38 g | FC=1C=C(C(=C(C1)C(C)N)OC)Cl | C9H11ClFNO
reactant | 2,4-difluoro-1-methanesulfonyl-benzene | 1.56 mmol, 0.3 g | FC1=C(C=CC(=C1)F)S(=O)(=O)C | C7H6F2O2S
reactant | N,N-diisopropylethylamine | 7.81 mmol, 1.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 5-fluoro-N-(1-(5-fluoro-2-methoxy-3-chlorophenyl)ethyl)-2-(methylsulfonyl)benzenamine | 0.15 g, 26% | FC=1C=CC(=C(C1)NC(C)C1=C(C(=CC(=C1)F)Cl)OC)S(=O)(=O)C | C16H16ClF2NO3S
